US04851413
Ethyl 4-[3,5,6-trimethyl-1,4-benzoquinon-2-yl-(3-pyridyl)methyl]-α-methylcinnamate, 1.2 g (2.8 mmol), was dissolved in 20 ml of concentrated hydrochloric acid, and refluxed by heating for 2 hours. After cooling, the reaction mixture was neutralized with a saturated aqueous solution of sodium hydrogen carbonate, and the resulting substance was extracted with ethyl acetate. The extract was washed with water and dried, and the solvent was evaporated off. The residue was purified with silica gel column chromatography (ethyl acetate-ethanol(9:1)), and recrystallized from ethyl acetate, to give 0.96 g (85.6%) of 4-[3,5,6-trimethyl-1,4-benzoquinon-2-yl(3-pyridyl)methyl]-α-methylcinnamic acid. The physical data are shown in Table 1.

reactant | Ethyl 4-[3,5,6-trimethyl-1,4-benzoquinon-2-yl-(3-pyridyl)methyl]-α-methylcinnamate | CC1=C(C(C(=C(C1=O)C)C)=O)C(C1=CC=C(C=C(C(=O)OCC)C)C=C1)C=1C=NC=CC1 | C27H27NO4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | 4-[3,5,6-trimethyl-1,4-benzoquinon-2-yl(3-pyridyl)methyl]-α-methylcinnamic acid | 0.96 g, 85.6% | CC1=C(C(C(=C(C1=O)C)C)=O)C(C1=CC=C(C=C(C(=O)O)C)C=C1)C=1C=NC=CC1 | C25H23NO4
